US07642264B2
2-(5-Bromo-thiophen-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine (example A.31) (1.00 g, 2.75 mmol) and commercially available 5-bromthiophene-2-boronic acid (0.570 g, 2.75 mmol) according to the general procedure IVb. Obtained as a light yellow solid (0.480 g, 43%). MS (ISP) 398.0 [(M+H)+] and 400.0 [(M+2+H)+].

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine | 2.75 mmol, 1.00 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 5-bromthiophene-2-boronic acid | 2.75 mmol, 0.570 g | BrC1=CC=C(S1)B(O)O | C4H4BBrO2S
product | 2-(5-Bromo-thiophen-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | BrC1=CC=C(S1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11BrF3NS
